US07368572B2
To a solution of triphenylphosphine (5.61 g, 21.4 mmol) in anhydrous THF (40 ml) was added DIAD (4.21 ml, 21.4 mmol). The solution was stirred until a white precipitate was formed (2 to 10 min). After additional 60 min, a solution of di-tert-butyliminodicarboxylate (3.10 g, 14.3 mmol) and (R)-3-butyn-2-ol (1.0 g, 14.3 mmol) in THF (25 ml) was added and stirring was continued for 16 h. The reaction mixture was concentrated in vacuo and purified by flash chromatography over silica gel with ethyl acetate/hexane (1/20-1/1) to give N,N-bis-Boc-1(S)-methyl-prop-2-ynylamine (0.643 g) as colorless solid.

reactant | triphenylphosphine | 21.4 mmol, 5.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 21.4 mmol, 4.21 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | di-tert-butyliminodicarboxylate | 14.3 mmol, 3.10 g | CC(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | (R)-3-butyn-2-ol | 14.3 mmol, 1.0 g | C[C@H](C#C)O | C4H6O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | N,N-bis-Boc-1(S)-methyl-prop-2-ynylamine | 0.643 g | C(=O)(OC(C)(C)C)N(C(=O)OC(C)(C)C)[C@H](C#C)C | C14H23NO4
